US04806637
N-allyloxycarbonyl-3-pyrroline
To a solution of 3-pyrroline (3.5 gms) in ethanol (20 mL) was added ~25 mL saturated aq. NaHCO3 and enough water to allow rapid stirring. The mixture was cooled to 10° C. and allyl chloroformate (5.92 mL) was slowly added via pressure equalized addition funnel. The mixture was removed from ice bath and allowed to stir at room temperature for 2 hours. Product was extracted into Et2O (3×150 mL). The organic phase was washed with water (2×50 mL), dried (MgSO4) and solvent was evaporated at reduced pressure. Purification on silica (Et2O) afforded pure title compound.

reactant | 3-pyrroline | 3.5 gms | N1CC=CC1 | C4H7N
reactant | NaHCO3 | ~25 mL | C(=O)(O)[O-].[Na+]
reactant | water | O | H2O
reactant | allyl chloroformate | 5.92 mL | ClC(=O)OCC=C | C4H5ClO2
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | N-allyloxycarbonyl-3-pyrroline | C(C=C)OC(=O)N1CC=CC1 | C8H11NO2
